US07411053B2
Preparation of Di-[4-(2,2′:6′,2″)terpyridin-4′-yl-benzyl]-4,4′-azobis(4-cyanovalerate) (TPY-AIBN)
A reaction mixture of 4′-(4-bromomethylphenyl)-2,2′:6′,2″-terpyridine (1.500 g, 3.729 mmol), 4,4′-azobis(4-cyanopentanoic acid) (500 mg, 1.7839 mmol), Cs2CO3 (750 mg, 2.302 mmol), 1.0 ml of water and 100 ml of acetone was stirred vigorously at room temperature for 5 days. The solvents were removed under vacuum, and CH2Cl2 was added. The precipitate was filtered off. The filtrate was evaporated to dryness under vacuum, and then 300 ml of CH2Cl2-hexane mixture solvents (1:12, v/v) was added. The precipitate was filtered, and dried, and further purified by column chromatography (Al2O3) using ethyl acetate-hexane (3:2, v/v) as eluent to give pure product (0.763 g, 46%). 1H-NMR (CDCl3): δ=8.64 (m, 12H), 7.85 (m, 8H), 7.47 (m, 4H), 7.30 (m, 4H), 5.20 (s, 4H, —CH2—O—C(O)—), 2.65-2.48(m,8H, —OOC—CH2CH2—), 1.69(m, 6H, =N—C(CN)—CH3). HRMS (TOF): calculated for C56H47N10O4[(M+H)+] m/z=923.3782, found m/z=923.3759 Fluorescent Spectral Properties: λex=320 nm, λem=380 nm.

reactant | 4′-(4-bromomethylphenyl)-2,2′:6′,2″-terpyridine | 3.729 mmol, 1.500 g | BrCC1=CC=C(C=C1)C1=CC(=NC(=C1)C1=NC=CC=C1)C1=NC=CC=C1 | C22H16BrN3
reactant | 4,4′-azobis(4-cyanopentanoic acid) | 1.7839 mmol, 500 mg | N(=NC(CCC(=O)O)(C)C#N)C(CCC(=O)O)(C)C#N | C12H16N4O4
reactant | Cs2CO3 | 2.302 mmol, 750 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | 1.0 ml | O | H2O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | Di-[4-(2,2′:6′,2″)terpyridin-4′-yl-benzyl]-4,4′-azobis(4-cyanovalerate) | 0.763 g, 46% | N1=C(C=CC=C1)C1=NC(=CC(=C1)C1=CC=C(COC(CCC(C)(C#N)N=NC(CCC(=O)OCC2=CC=C(C=C2)C2=CC(=NC(=C2)C2=NC=CC=C2)C2=NC=CC=C2)(C)C#N)=O)C=C1)C1=NC=CC=C1 | C56H46N10O4
